US05399580
(±)-cis-tert-Butyl N-[4-(hydroxymethyl)-2-cyclopenten-1-yl]carbamate
The first extract of the previous example containing (±)-cis-4-Amino-2-cyclopentene-1-methanol (0.4459 mol) was dissolved in 2:1 1,4-dioxane-water (1.2 L). Sodium bicarbonate (48.69 g, 0.580 mol) was added, the mixture was cooled in an ice-water bath and di-tert-butyldicarbonate (110.25 g, 0.490 mol, Aldrich 97%) was added in one portion with rapid stirring. The resulting mixture was warmed to room temperature over the course of one hour, then was concentrated under vacuum to a volume of about 400 mL. The slurry was taken up in chloroform (300 mL), the phases were separated, and the aqueous (upper) phase was reextracted with chloroform (five portions of 300 mL each) until no product was observed in the extract by TLC (silica, 10% methanol-chloroform, iodine visualization, Rf =0.51). The combined organic phases were dried over sodium sulfate, filtered and concentrated under vacuum to give the title compound as an oil. The final extract of the previous example was reacted similarly, and the crude title compound thus obtained was combined with the above portion, the combined material was taken up in hexanes and evaporated under vacuum to remove residual chloroform. The oil then crystallized spontaneously. It was triturated in cold hexanes and filtered to give the crude title compound as a crystalline solid, which was dried by suction to a constant weight (79.98 g, 0.3750 mol). Recrystallization from boiling ethyl acetate (70 mL) and hexanes (300 mL) gave the title compound as a off-white, crystalline solid (73.43 g, 0.3443 mol); m.p. 54°-55.5° C.; 1H-NMR (DMSO-d6) δ: 6.72 (d, J=7.9 Hz, 1H, NH), 5.80 and 5.60 (two m, 2H, CH=CH), 4.59 (t, J=5.2 Hz, 1H, OH), 4.45 (m, 1H, CHN), 3.35 (m, overlapping H2O , CH2O), 2.60 (m, 1H, CH), 2.30 (m, 1H, 1/2CH2), 1.40 (s, 9H, C(CH3)3), 1.2 (m, 1H, 1/2CH2).

reactant | (±)-cis-4-Amino-2-cyclopentene-1-methanol | 0.4459 mol | N[C@H]1C=C[C@H](C1)CO | C6H11NO
reactant | Sodium bicarbonate | 0.580 mol, 48.69 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyldicarbonate | 0.490 mol, 110.25 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane water | 1.2 L | O1CCOCC1.O
product | (±)-cis-tert-Butyl N-[4-(hydroxymethyl)-2-cyclopenten-1-yl]carbamate | OC[C@H]1C=C[C@H](C1)NC(OC(C)(C)C)=O | C11H19NO3
